US08486946B2
Step 5: Preparation of 2-(2,3-Dimethylphenyl)-5-{[6-(1,3-thiazol-4-yl)pyridin-3-yl]methyl}-2,5-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one
5-{[6-(1,3-Thiazol-4-yl)pyridin-3-yl]methyl}-2,5-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one (66 mg, 0.18 mmol) was dissolved in degassed N,N-dimethylformamide (1 mL) and copper (1) iodide (35 mg, 0.22 mmol, 1.2 equiv), 1-iodo-2,3-dimethylbenzene (51 mg, 0.22 mmol, 1.2 equiv), (±)-trans-N,N′-dimethylcyclohexane-1,2-diamine (78 mg, 0.549 mmol, 3 equiv) and potassium phosphate (0.27 g, 1.3 mmol, 7 equiv) were added. The vessel was sealed and placed into an oil bath preheated at 105° C. for 40 minutes. The mixture cooled to ambient temperature, diluted with water (5 mL) and extracted with ethyl acetate (3×30 mL). The combined organic extracts were washed three times with water and once with brine, dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 96:4; chloroform:methanol), providing the titled compound: 1H-NMR (400 MHz, CDCl3) δ 8.87 (1H, s), 8.69 (1H, s), 8.31 (1H, d, J=8.2 Hz), 8.16 (2H, m), 7.77 (1H, d, J=8.2 Hz), 7.57 (4H, m), 7.28 (1H, m), 7.22 (1H, d, J=3.9 Hz), 5.90 (2H, s), 2.37 (3H, s), 2.21 (3H, s) ppm; high resolution mass spectrometry (ES+) m/z 465.1499 [(M+H)+; calculated for C26H21N6OS: 465.1492].

reactant | 5-{[6-(1,3-Thiazol-4-yl)pyridin-3-yl]methyl}-2,5-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one | 0.18 mmol, 66 mg | S1C=NC(=C1)C1=CC=C(C=N1)CN1N=C2C(C=3C=CC=CC13)=NNC2=O | C18H12N6OS
reactant | 1-iodo-2,3-dimethylbenzene | 0.22 mmol, 51 mg, 1.2 equiv | IC1=C(C(=CC=C1)C)C | C8H9I
reactant | (±)-trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.549 mmol, 78 mg, 3 equiv | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 1.3 mmol, 0.27 g, 7 equiv | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | 5 mL | O | H2O
catalyst | copper (1) iodide | 0.22 mmol, 35 mg, 1.2 equiv | [Cu]I
product | 2-(2,3-Dimethylphenyl)-5-{[6-(1,3-thiazol-4-yl)pyridin-3-yl]methyl}-2,5-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one | CC1=C(C=CC=C1C)N1N=C2C(=NN(C=3C=CC=CC23)CC=2C=NC(=CC2)C=2N=CSC2)C1=O | C26H20N6OS
